Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
___
 
Attending: ___.
 
Chief Complaint:
"I overdosed on medication"

 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
The patient is a ___ year old single, employed female with a
hx of depression, anxiety, PTSD, h/o of 3 prior suicide 
attempts,
and multiple psychiatric inpatient admissions, most recently at
___ (___) who was brought in by EMS after having overdosed
on 20 generic NyQuil in attempt to end her life. The patient
reports feeling increasingly depressed over the past 2 months
with exacerbation in the last 2 weeks given the upcoming
holidays. The patient reported starting her day off feeling 
"ok",
went to give guitar lessons, and returned to her apartment to
clean up. She then began to feel "lonely, desperate, and
isolated" since she was alone for the holiday season. In an
effort to release some of this pain, she grabbed a knife from 
the
kitchen and attempted to cut her left wrist, but aborted, since
she "wasn't able to stomach it". The patient didn't endorse
feeling suicidal at the time and didn't have a plan to end her
life, however, at 11am she reports impulsively taking 20 generic
NyQuil pills (24 in the bottle and had taken 4 previously) in an
attempt to feel "numb". She reports having a feeling "that 20
pills wouldn't be enough to cause serious damage". Additionally,
she reports drinking 7 oz of Scotch, after the OD attempt, but
prior to falling asleep. She woke up ~5 hours later and vomited
prior to the ambulance being called. The patient reports feeling
ambivalent over her suicide attempt, "I am happy I am here, but 
I
am also upset I didn't cause more damage". She feels "stupid" 
for
making such an attempt. As for neurovegetative symptoms the
patient reports feeling hopeless, helpless, depressed, and 
guilty
as well as having poor appetite, decreased sleep, and worsening
concentration. The patient denies any current suicidal ideation,
intent, or plan.
     The patient does endorse having symptoms of PTSD, such as
nightmares, hyperstartle response, and some avoidant behavior.
She denies any manic, psychotic, or delusional symptoms.
     Stressors for the patient include not talking to her mother
in ___ years, having to withdraw from school because of her mental
illness, and being alone for the holidays.

 
Past Medical History:
(PCP is ___ at ___
No known past medical history

PAST PSYCHIATRIC HISTORY (obtained from ___ note
on ___ and updated as necessary:
Hospitalizations:
-Pt has been hospitalized in a psychiatric unit >10 times.
-Most recently hospitalized at ___ to the 
Trauma/PTSD
unit from ___ to ___ after a SA via OD on hydroxyzine or
Prazosin.
-___ secondary to suicidal ideation. 
-___ in ___ and ___ for suicidal ideation after
being raped
-___ x 3 days for suicidal ideation and was in a residential
program at ___ for women with history of trauma x 2.5 weeks.
-___ in ___ after suicide attempt x 4 weeks.
Current treaters and treatment: Psychiatrist is ___
MD (___) and last saw in ___.
Medication and ECT trials: Sertraline, Fluoxetine, Abilify, and
Prazosin. She reports that Abilify and Prazosin helped the most
with her symptoms.
Self-injury: 
-hx of cutting or burning herself about 2x per month for
emotional relief, one episode of cutting required stitches, last
reported episode of cutting was about ___ years ago, which is
different from ___ note which states she last cut several
months before that.
-reports 3 prior suicide attempts, first at age ___ by OD on 40
ibuprofen tablets. Second, on ___ by OD on 80 aspirin which
resulted in an overnight ICU stay and transfer to inpt psych
unit. Third, on ___ by OD on hydroxyzine or prazosin,
medically stable and inpatient at ___.  
Harm to others: denies
Access to weapons: denies

 
Social History:
___
Family History:
Paternal Grandfather on psychotropics: unclear which ones.
Believes father was also very depressed 

 
Physical Exam:
VS:  BP:114/70  HR:78  temp:99.1  resp:16  O2 sat:100% RA  
height:63 inches  weight:122 lbs
GEN: well nourished, NAD
Skin: several well healed lacerations on her left forearm, one 
of
which is ~6cm and was sutured in the past. There is no evidence
of cutting from today. No rashes or cyanosis present.
HEENT: normocephalic, atraumatic;, no sceleral icterus, no
pharyngeal erythema, moist mucous membranes
NECK:  supple, no lymphadenopathy
CARDIO: RRR, S1 S2, no murmurs appreciated
LUNGS: clear to auscultation ___
ABD: BS+, soft, NT, ND;
EXT: wwp, no edema

NEURO: 
CRANIAL NERVES: 
II,III: VFFTC, pupils brisk, 5 to 3 mm bilaterally to
light
III,IV,VI: EOMI, no ptosis. Normal
saccades/pursuits
V: sensation intact to LT
VII: no facial asymmetry 
VIII: hears finger rub bilaterally;
IX,X: voice normal, palate elevates symmetrically
XI: head turns and shoulder shrugs were full bilaterally
XII: tongue protrudes midline without atrophy or
fasciculation MOTOR: Normal bulk and tone. No myoclonus or 
tremors. No pronator
drift. Full strength in all extremities.   
SENSORY: diffusely intact to light touch and position sense. 
REFLEXES: DTRs were normal and symmetric at the triceps, biceps,
brachioradialis, quadriceps and gastrocnemius/soleus.
CEREBELLAR: normal finger-nose-finger and alternating hand
movements.
GAIT: normal station and gait, preserved heel to toe walking 
 
Pertinent Results:
___ 04:35PM   GLUCOSE-85 UREA N-9 CREAT-0.7 SODIUM-141 
POTASSIUM-3.9 CHLORIDE-106 TOTAL CO2-23 ANION GAP-16
___ 04:35PM   WBC-8.5 RBC-4.66 HGB-13.4 HCT-41.1 MCV-88 
MCH-28.9 MCHC-32.7 RDW-12.6
___ 04:35PM   NEUTS-75.9* ___ MONOS-3.3 EOS-0.3 
BASOS-0.7
___ 04:35PM   PLT COUNT-224
___ 04:35PM   ___
___ 04:35PM   ALT(SGPT)-46* AST(SGOT)-34 ALK PHOS-63 TOT 
BILI-0.2
___ 06:55AM   ALT(SGPT)-38 AST(SGOT)-27 ALK PHOS-56 TOT 
BILI-0.4
___ 04:35PM   LIPASE-23
___ 04:35PM   ALBUMIN-4.6
___ 09:13PM   ACETMNPHN-6*
___ 04:55PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG mthdone-NEG
___ 04:35PM   ASA-NEG ETHANOL-23* ACETMNPHN-39* 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 06:55AM   TSH-3.5
 
Brief Hospital Course:
#)LEGAL
The patient was admitted on ___md remained on 
such throughout this admission. She intended to sign a 3-day 
notice of intent to leave, but she never completed it.  

#)SAFETY
The patient was placed on 15 min checks on admission and 
throughout hospital stay. The patient remained in good 
behavioral control throughout this hospitalization and did not 
require physical or chemical restraint.

#)PSYCHIATRIC
1. Mood d/o NOS (SIMD vs. MDD vs BPAD): Pt reports feeling 
increasingly depressed over past two months with acute 
exacerbation recently due to being alone
for the holidays and being estranged from her parents.  During 
her stay, she reported feeling fine and denied symptoms of 
depression.  She reports having "lows," during which she makes 
attempts on her life, every ___ months.  She was tearful at 
times during her hospitalization when discussing her past and 
when discussing her current situation.  She was able to remain 
future-oriented and often spoke about wanting to go back to work 
and return to school.    Abilify 5mg and Prozac 20mg were 
started on ___, as they have both been helpful to her in the 
past.  The doses were increased on ___ to prozac 40mg and 
abilify 10mg, and the pt. went home with prescriptions for those 
medications.  She has an appointment with Dr. ___ @ 
___ for psychiatry follow-up, but her insurance situation is 
unclear at this time.  She also has a follow-up appointment with 
her PCP.  

2. PTSD:  Pt has hx of sexual assualt in ___, sexual abuse by
father, physical/emotional abuse by mother. Pt endorsed ___ of
PTSD in the ED including nightmares, startle response,
hypervigilance, and avoidance behavior. She states that these
have increased in severity in past couple weeks. She reports a
positive response to prazosin in the past.  She denies having 
nightmares while inpatient, and she was offered hydroxyzine 25mg 
BID PRN for anxiety and insomnia.  On ___, she began taking 
prazosin 2mg qHS for nightmares, and she reports getting a good 
night's sleep that night but is unsure whether or not the 
medication caused this.  

3. Alcohol Abuse:  Per initial ED psych eval, pt has been 
drinking ___ shots or beers per night. Denies hx of w/d 
symptoms.  The patient admits to using alcohol and drugs as a 
way of coping and recognizes that this is problematic.  Her 
substance use is likely contributing to her mood symptoms. 

#)MEDICAL
1. s/p Nyquil/alcohol overdose:  The pt's estimated 
acetaminophen ingestion is 4 gm, which does not place her at a 
high risk for hepatotoxicity.  No treatment was indicated.  She 
had a slight elevation in ALT on admission labs, but this 
normalized.  

2. OCP: Pt. did not have this while inpatient but will resume 
taking as an outpatient.  She did not miss any doses while here 
as, according to her, she should have been taking only placebo 
pills this week.  

#)PSYCHOSOCIAL
Assessment: Pt concerned she will lose job if she cannot make it 
to work.  The patient works as a ___ at a high-end 
restaurant, and she reports that she enjoys work and likes her 
co-workers.  She ___, "I have friends in ___ now, and I 
have a good job."  She mentioned that the "punishment" of being 
inpatient has made her appreciate her life outside of the 
hospital more.  The patient will be returning to work on the 
evening of discharge and has a note by an MD confirming her 
hospitalization.  
Ms. ___ has few social supports as she has not had any 
contact with her father in over ___ years and her mother for a 
year and a half.  She has a male roommate, with whom she is 
close, but he has a girlfriend.  She has other friends, one of 
whom we attempted to contact without success, but it appears 
that her social support is minimal.  
The patient has taken this past semester off due to a suicide 
attempt leading to hospitalization in ___, but she was hoping to 
return to school on ___.  The director of the counseling 
___ at ___ was contacted, and she left a message for 
social work saying that she believes the patient is "high risk" 
and that her returning to school may be jeopardized by this 
inpatient hospitalization.  In that case, the patient would not 
have ___ insurance.  She has begun the process of 
applying for ___, but she is currently 
without insurance.  ___ stated that she is prepared for the 
possibility that she might not be able to return to school.

#)RISK ASSESSMENT
Ms. ___ is at a low immediate risk of harm to self or 
others 
given that she is not suicidal or homicidal, is feeling well and 
has not reported any symptoms of depression while here.  She 
participated well in the milieu.  She is being discharged with 
outpatient follow up to her home in the community, which is the 
least restrictive environment appropriate for her at this time. 
Despite her recent history of a suicide attempt in the setting 
of depression, her current risk of harm to others is low given 
that she has remained in good behavioral control throughout this 
hospitalization. Her suicide attempts seem to represent 
impulsive acts that happen during times when she is feeling low 
and is unable to tolerate her frustration.  The patient is at 
chronic risk of harm to self due to her history of several 
previous attempts that also seem to have been impulsive.  She 
reports feeling fine outside of these moments, but her 
impulsivity is a primary risk factor.  She is also at chronic 
risk due to her trauma history, estrangement from her family, 
and lack of family or close social supports.  Additionally, she 
has a number of modifiable risk factors including lack of 
treatment, no insurance, no ability to get medications.  We 
mitigated these risks by providing inpatient hospitalization on 
a locked psychiatric unit, daily individual, group, and milieu 
therapy, and re-starting her previous abilify and prozac. 
Additionally, she has follow-up appointments scheduled and has 
started the process of getting insurance.  She has a several 
protective factors which include intelligence, future-oriented 
thinking, and motivation.  Her current risk is low for  
intentional self-harm given that she denies suicidal ideation, 
intent and plan, is willing to accept treatment, is currently 
sober, and is future oriented with a goal to stay out of the 
hospital and to try to get treatment to prevent future suicide 
attempts.   
 
Medications on Admission:
1. Multivitamins 1 TAB PO DAILY 
2. Ocella (drospirenone-ethinyl estradiol) ___ mg oral daily 

 
Discharge Medications:
1. Fluoxetine 40 mg PO DAILY 
RX *fluoxetine 40 mg 1 capsule(s) by mouth DAILY Disp #*30 
Capsule Refills:*0
2. Prazosin 2 mg PO QHS 
RX *prazosin [Minipress] 2 mg 1 capsule(s) by mouth at bedtime 
Disp #*30 Capsule Refills:*0
3. Ocella (drospirenone-ethinyl estradiol) ___ mg oral daily 
4. Multivitamins 1 TAB PO DAILY 
5. Aripiprazole 10 mg PO DAILY 
RX *aripiprazole [Abilify] 10 mg 1 tablet(s) by mouth DAILY Disp 
#*30 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Axis I: Mood d/o NOS, r/o substance induced mood d/o; hx of 
PTSD; hx of alcohol abuse
Axis II: deferred

 
Discharge Condition:
VS: T 98.6, P 63, BP 122/90, RR 16, SpO2 100% on RA
Appearance: young female, well-groomed, in no apparent distress
Behavior: cooperative, good eye contact, no psychomotor 
retardation or agitation 
Speech: Normal tone, rate, volume and prosody.
Mood and Affect: 'better' and congruent with mood
Thought process: Linear, goal directed, no loosening of 
associations.
Thought Content: Denies suicidality or homicidality. Denies 
auditory or visual hallucinations. Paranoia and delusional 
thought content not present. Future oriented with plans to 
resume working and try to continue her schooling.
Judgment and Insight: Fair/Fair.

 
Discharge Instructions:
Dear Ms. ___,

As you know, you were admitted to ___ after an overdose on 
Nyquil and alcohol. You were noted to have worsening depression 
and anxiety. To help treat these symptoms we started you on 
Abilify and Prozac which have been helpful for your mood in the 
past. 

Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.

Please continue all medications as directed.

Please avoid abusing alcohol and any drugs--whether prescription 
drugs or illegal drugs--as this can further worsen your medical 
and psychiatric illnesses.

Please contact your outpatient psychiatrist or other providers 
if you have any concerns.

Please call ___ or go to your nearest emergency room if you feel 
unsafe in any way and are unable to immediately reach your 
health care providers.

We wish you the best of health,
Your ___ Mental Health Team
 
Followup Instructions:
___